US05663200
In analogy with Example 44, the title compound is obtained from 5(S)-(Boc-amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-[(4-methoxy-1-naphthyl)methyl]hexanoyl-(L)-Val-N-(2-methoxyethyl)amide in abs. DMF using TBAF. [The starting compound for preparing the naphthylmethyl substituent, 1-bromomethyl-4-methoxynaphthalene, is obtained from 1-methoxynaphthalene (Fluka, Buchs, Switzerland) by brominating with I2 /Br2 in CHCl3, reacting the resulting bromide by means of a Grignard reaction and working up with CO2 to form the corresponding acid; reaction of the latter with lithium aluminium hydride to form 1-hydroxymethyl-4-methoxynaphthalene (reduction); and reaction of the latter with PBr3, thereby yielding the desired starting material (see Can. J. Chem. 59, 2629 (1981))].

reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | 1-bromomethyl-4-methoxynaphthalene | BrCC1=CC=C(C2=CC=CC=C12)OC | C12H11BrO
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-methoxynaphthalene | COC1=CC=CC2=CC=CC=C12 | C11H10O
